US20010027254A1
Into N, N-dimethylformamide (10 ml) was dissolved 1-(4-methoxylphenyl)-2-[5-(2,2-dicyanoethenyl)-2-thienyl]-5-(2-thienyl)pyrrole (53.7 mg). After tetracyanoethylene (35.3 mg: 2.1 mol equivalents) was added to the solution, it was stirred at room temperature for 21 hours and further at 80° for 18 hours. Into the reaction mixture was added 50 ml of water, which was then extracted with chloroform (50 ml×3). The combined organic layers were subjected to drying over anhydrous magnesium sulfate and condensation under reduced pressure. The resulting residue was separated by column chromatography (silica gel, chloroform), and 1-(methoxyphenyl)-2-[5-(2,2-dicyanoethenyl)-2-thienyl]-5-[5-(tricyanoethenyl)-2-thienyl]pyrrole was obtained (31.8 mg, 0.0618 mmol., 48%). The product had the following physical values.

reactant | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 1-(4-methoxylphenyl)-2-[5-(2,2-dicyanoethenyl)-2-thienyl]-5-(2-thienyl)pyrrole | 53.7 mg | O(C)C1=CC=C(C=C1)N1C(=CC=C1C=1SC=CC1)C=1SC(=CC1)C=C(C#N)C#N | C23H15N3OS2
reactant | tetracyanoethylene | 2.1 mol, 35.3 mg | C(#N)C(=C(C#N)C#N)C#N | C6N4
reactant | water | 50 ml | O | H2O
product | 1-(methoxyphenyl)-2-[5-(2,2-dicyanoethenyl)-2-thienyl]-5-[5-(tricyanoethenyl)-2-thienyl]pyrrole | COC1=C(C=CC=C1)N1C(=CC=C1C=1SC(=CC1)C(=C(C#N)C#N)C#N)C=1SC(=CC1)C=C(C#N)C#N | C28H14N6OS2
